US04486428
2-Methoxyamino-5,5-dimethyl-8-(5-phenyl-2-pentyloxy)-3,3a,4,5-tetrahydro-2H-pyrano[4,3,2-de]benzopyran
In a stirred flask, under nitrogen, was placed (0.045 mole) 2-hydroxy-5,5-dimethyl-8-(5-phenyl-2-pentyloxy)-3,3a,4,5-tetrahydro-2H-pyrano[4,3,2-de]benzopyran, 250 ml ethanol and 250 ml pyridine. The solution was cooled to 0° C. and 3.94 g (0.047 mole) methoxyamine was added. The resulting mixture was stirred at 0° C. for 2.5 hours, the solvent evaporated in vacuo, the residue taken up in 500 ml ethyl ether and washed twice with water. The aqueous phase was backwashed with ether and the combined ether layers washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo to obtain 19 g of residual oil. The structure of the product was verified by 1H-NMR. Mass spectrum (m/e): 411 (M+), 380 (M-OCH3), 364 (M-NH2OCH3).

reactant | 2-hydroxy-5,5-dimethyl-8-(5-phenyl-2-pentyloxy)-3,3a,4,5-tetrahydro-2H-pyrano[4,3,2-de]benzopyran | 0.045 mole | OC1CC2CC(OC3=C2C(=CC(=C3)OC(C)CCCC3=CC=CC=C3)O1)(C)C | C24H30O4
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | methoxyamine | 0.047 mole, 3.94 g | CON | CH5NO
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methoxyamino-5,5-dimethyl-8-(5-phenyl-2-pentyloxy)-3,3a,4,5-tetrahydro-2H-pyrano[4,3,2-de]benzopyran | 19 g | CONC1CC2CC(OC3=C2C(=CC(=C3)OC(C)CCCC3=CC=CC=C3)O1)(C)C | C25H33NO4
